US05069909
Buprenorphine base was prepared from its HCl salt. A known amount of commercial buprenorphine HCl was dissolved in water, followed by the addition of saturated solution of Na2HCO3, to precipitate buprenorphine base. The precipitate was then filtered and washed several times with cold deionized water to remove excess Na2HCO3. The white residue was then dried overnight in air. The dried residue was added to a water:ethanol (80:20) mixture, and heated to 60° C., to dissolve the free base, followed by immediate filtration. Upon cooling, the buprenorphine base crystallized. The rhombic shaped crystalline product was then filtered and dried under a gentle stream of nitrogen. The purity of the base was checked by melting point and HPLC assay. The melting point of the base was 210° C., virtually the same as reported in the literature. The purity of the base by HPLC assay was 99%.

reactant | HCl | Cl | ClH
reactant | buprenorphine HCl | C[C@]([C@H]1C[C@@]23CC[C@]1([C@H]4[C@@]25CCN([C@@H]3CC6=C5C(=C(C=C6)O)O4)CC7CC7)OC)(C(C)(C)C)O.Cl
solvent | water | O | H2O
product | Buprenorphine | C[C@]([C@H]1C[C@@]23CC[C@]1([C@H]4[C@@]25CCN([C@@H]3CC6=C5C(=C(C=C6)O)O4)CC7CC7)OC)(C(C)(C)C)O | C29H41NO4
